data/mechanisms/records/IMS8-EQ8.7d.json
{"mechanism_id": "IMS8-EQ8.7d", "species": [{"species_id": "but_1_ene_complex", "mapped_smiles": "[CH2:1]=[CH:2][CH2:3][CH3:4]", "role": "intermediate", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "acetaldehyde_enol_radical_cation", "mapped_smiles": "[CH2:5]=[CH:6][O+:7][1H:8]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "sec_butyl_cation", "mapped_smiles": "[CH2:1]([1H:8])[CH+:2][CH2:3][CH3:4]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "vinyloxy_radical", "mapped_smiles": "[CH2:5]=[CH:6][O:7]", "role": "intermediate", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_complex_1", "species_ids": ["but_1_ene_complex", "acetaldehyde_enol_radical_cation"]}, {"state_id": "state_complex_2", "species_ids": ["sec_butyl_cation", "vinyloxy_radical"]}], "steps": [{"step_id": "step_intracomplex_proton_transfer", "from_state": "state_complex_1", "to_state": "state_complex_2", "step_class": "proton_transfer", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "lone_pair", "atom_maps": [7]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_intracomplex_proton_transfer", "support_type": "textbook_proposed", "locator": {"page": 144, "equation": "8.7", "section": "8 / Detailed Mechanisms of Ion Fragmentation (Random or hidden rearrangements)"}, "confidence": 0.75, "curator_note": "Equation 8.7, row 2 (first bracketed ion-molecule complex, arrows drawn inside the bracket). Intra-complex proton transfer: the 1-butene C=C pi attacks the enol O-H proton (forming a new C-H bond, giving a sec-butyl cation) while the O-H bonding pair collapses onto oxygen as a new lone pair, leaving a neutral vinyloxy radical CH2=CH-O.. Book draws 2 arc(s), both full (double-barbed, 2-electron) curved arrows, and BOTH are drawn (moves 1,2); no implicit hook. DRAWN COMPLEX: reactant and product are square-bracketed non-covalent ion-molecule complexes; encoded here as two-species states {1-butene, CH2=CH-OH+.} -> {sec-butyl cation, CH2=CH-O.} since a proton-bound/ion-dipole complex is not a single valid mapped SMILES. The oxygen radical count is unchanged (O+. -> O.), so the arrow check reports a soft lone-pair note on atom 7 (the 2 e- arriving on O form a lone pair, not two radicals) -- this is expected and advisory. The species undergoing reaction is the isomerized molecular-ion complex (composition C6H12O, m/z 100)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "low-energy electron ionization (ion-molecule complex)", "electron_energy_ev": null, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
